US08486984B2
11.4 2-Propyl-2,3,4,9-tetrahydro-1H-beta-carbolin-7-ylamine
To 1-(7-nitro-2-propyl-1,2,3,4-tetrahydro-beta-carbolin-9-yl)-ethanone (1.2 g, 2.79 mmol, 70% purity) in methanol (50 ml) was added tin dichloride (5.03 g, 22.3 mmol) and the reaction mixture was refluxed for 3 h. The solvent was removed, the residue treated with 1 N aqueous sodium hydroxide and ethyl acetate, filtered through celite, the phases separated and the aqueous phase extracted twice with ethyl acetate. The combined organic phases were dried over magnesium sulfate, filtered, and evaporated to dryness to yield 700 mg of crude product. The crude product was purified with silica gel chromatography with ethyl acetate/methanol (95:5) as eluent to give the desired product (300 mg, 45% yield).

reactant | 1-(7-nitro-2-propyl-1,2,3,4-tetrahydro-beta-carbolin-9-yl)-ethanone | 2.79 mmol, 1.2 g | [N+](=O)([O-])C1=CC=C2C=3CCN(CC3N(C2=C1)C(C)=O)CCC | C16H19N3O3
reactant | tin dichloride | 22.3 mmol, 5.03 g | [Sn](Cl)Cl
solvent | methanol | 50 ml | CO | CH4O
product | 2-Propyl-2,3,4,9-tetrahydro-1H-beta-carbolin-7-ylamine | 300 mg, 45% yield | C(CC)N1CC=2NC3=CC(=CC=C3C2CC1)N | C14H19N3
